US04696920
A solution of diethyl benzylmalonate (107 g, 0.43 mol) in 300 ml dry diethyl ether was added under nitrogen to a suspension of 24.5 g (0.65 mol) lithium aluminium hudride (LiAlH4) in 220 ml dry ether so to maintain a gentle reflux. The reaction mixture was refluxed for 2 more hours after the addition was completed. The excess of LiAlH4 was destroyed by addition of 50 ml ethyl acetate, followed by 50 ml water and finally by 600 ml 15% sulfuric acid. The ether phase was extracted by a saturated sodium bicarbonate solution and a saturated sodium chloride solution and dried over magnesium sulfate. Evaporation of the solvent left a white solid that was purified by recrystallization in ether. An amount of 45.8 g (0.28 mol) of 2-benzyl-1,3-propanediol was obtained (yield=64%).

reactant | diethyl benzylmalonate | 0.43 mol, 107 g | C(C1=CC=CC=C1)C(C(=O)OCC)C(=O)OCC | C14H18O4
reactant | lithium aluminium | 0.65 mol, 24.5 g | [Al].[Li]
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
solvent | ether | 220 ml | CCOCC | C4H10O
product | 2-benzyl-1,3-propanediol | 0.28 mol, 45.8 g, yield=64% | C(C1=CC=CC=C1)C(CO)CO | C10H14O2
